US04145347
Lactonitrile (71.08 g.) is added in a dropwise manner to a stirred solution of 100.1 g. of 1-methyl-piperazine in 500 ml. of benzene. The resulting warm solution is heated at reflux under a water separator until the theoretical amount of water is collected (about 4 hours). The solution is evaporated at reduced pressure and the residue is fractionated. The product, 2-(4-methyl-1-piperazinyl)propionitrile, is obtained as an oil, b.p. 128°-130° C./23 mm.

reactant | Lactonitrile | 71.08 g | C(C(O)C)#N | C3H5NO
reactant | 1-methyl-piperazine | CN1CCNCC1 | C5H12N2
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-(4-methyl-1-piperazinyl)propionitrile | CN1CCN(CC1)C(C#N)C | C8H15N3
